US09029545B2
N-(3-Bromo-2,6-dimethylthieno[2,3-b]pyridin-4-yl)-3-chlorobenzenesulfonamide
To a solution of 3-bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine (1.6 g, 6.22 mmol) (Description 8) in THF (30 mL) was added potassium tert-butoxide (2.79 g, 24.89 mmol) and the mixture stirred for 5 min before adding 3-chlorobenzenesulfonyl chloride (2.190 mL, 15.56 mmol). The mixture was stirred for 1 h and the solvent was then removed in vacuo. Ethyl acetate (50 mL) was added and the mixture washed with water (3×30 mL). The organic layer was dried over MgSO4, filtered and the solvent removed in vacuo. Purification by chromatography on silica gel, eluting with a gradient of 0-30% ethyl acetate in cyclohexane, afforded the title compound (1.3 g). LCMS (A) m/z: 431/433 [M+1]+, Rt 1.38 min (acidic).

reactant | 3-bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine | 6.22 mmol, 1.6 g | BrC1=C(SC=2N=C(C=C(C21)N)C)C | C9H9BrN2S
reactant | potassium tert-butoxide | 24.89 mmol, 2.79 g | CC(C)([O-])C.[K+]
reactant | 3-chlorobenzenesulfonyl chloride | 15.56 mmol, 2.190 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(3-Bromo-2,6-dimethylthieno[2,3-b]pyridin-4-yl)-3-chlorobenzenesulfonamide | 1.3 g | BrC1=C(SC2=NC(=CC(=C21)NS(=O)(=O)C2=CC(=CC=C2)Cl)C)C | C15H12BrClN2O2S2
